US08664210B2
(E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4β-ethyl-6α-hydroxyandrostan-17-one hydrochloride (I-bx)
The title compound was obtained in 90% yield following the procedure described in Example 30 starting from 4β-ethyl-6α-hydroxyandrostan-3,17-dione (Preparation 27, 137 mg) and 3-(R)-pyrrolidinyloxyamine dihydrochloride (Preparation 12, 160 mg). The crude product was triturated with Et2O and the resulting precipitate was filtered to give the title compound I-bx.

reactant | 4β-ethyl-6α-hydroxyandrostan-3,17-dione | 137 mg | C(C)[C@@H]1C2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)=O)O | C21H32O3
reactant | 3-(R)-pyrrolidinyloxyamine dihydrochloride | 160 mg | Cl.Cl.N1C[C@@H](CC1)ON
product | (E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4β-ethyl-6α-hydroxyandrostan-17-one hydrochloride | Cl.N1C[C@@H](CC1)O\N=C/1\[C@@H](C2[C@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O)CC | InChI=1S/C25H40N2O3.ClH/c1-4-16-20(27-30-15-9-12-26-14-15)8-11-25(3)19-7-10-24(2)18(5-6-22(24)29)17(19)13-21(28)23(16)25;/h15-19,21,23,26,28H,4-14H2,1-3H3;1H/b27-20+;/t15-,16+,17+,18+,19+,21+,23?,24+,25-;/m1./s1
